US04474977
1-Butyryloxy-1-(4-isopropylthiophenyl)-2-n-octylaminopropane hydrochloride
A mixture made of 10 gr (27 mmol) of 1-(4-isopropylthiophenyl)-2-n-octylamino-1-propanol hydrochloride and 11.4 gr (107 mmol) of butyryl chloride is heated at reflux temperature until a limpid solution is obtained. 10 ml of acetonitrile are added and reflux is maintained for about 2 hours. The solution so obtained is diluted with 40 ml of acetonitrile before being cooled. The white solid if filtered off. After recrystallisation from acetonitrile, the product weights 6.4 gr (14 mmol, 52%) and has a melting point of 104.1° C.

reactant | 1-(4-isopropylthiophenyl)-2-n-octylamino-1-propanol hydrochloride | 27 mmol, 10 gr | Cl.C(C)(C)SC1=CC=C(C=C1)C(C(C)NCCCCCCCC)O
reactant | butyryl chloride | 107 mmol, 11.4 gr | C(CCC)(=O)Cl | C4H7ClO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-Butyryloxy-1-(4-isopropylthiophenyl)-2-n-octylaminopropane hydrochloride | Cl.C(CCC)(=O)OC(C(C)NCCCCCCCC)C1=CC=C(C=C1)SC(C)C | InChI=1S/C24H41NO2S.ClH/c1-6-8-9-10-11-12-18-25-20(5)24(27-23(26)13-7-2)21-14-16-22(17-15-21)28-19(3)4;/h14-17,19-20,24-25H,6-13,18H2,1-5H3;1H
